US09145387B2
To a solution of tert-butyl 2-aminophenylcarbamate (2 g, 9.6 mol) in NMP (15 mL), DIPEA (3.1 g, 24 mmol) and 5-bromo-2,4-dichloropyrimidine (2.78 g, 14.4 mmol) were added and heated to 120° C. for 1 h. TLC showed completion of starting material (TLC system: 5% methanol in DCM (Rf): 0.6). The reaction mixture was diluted with water (50 mL). The obtained solid was filtered, washed with water (35 mL) and dried to obtain tert-butyl 2-(5-bromo-2-chloropyrimidin-4-ylamino)phenylcarbamate as a pale yellow solid. Yield: (2.2 g, 62%). MS: m/z 399.1 (ES+, M+H).

reactant | tert-butyl 2-aminophenylcarbamate | 9.6 mol, 2 g | NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | DIPEA | 24 mmol, 3.1 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-bromo-2,4-dichloropyrimidine | 14.4 mmol, 2.78 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | methanol | CO | CH4O
solvent | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | tert-butyl 2-(5-bromo-2-chloropyrimidin-4-ylamino)phenylcarbamate | BrC=1C(=NC(=NC1)Cl)NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C15H16BrClN4O2
